US07091201B2
To a suspension of NaH (701 mg, 60% in mineral oil) in DMF (15 ml) was added ethylene glycol (15 ml). After the evolution of gas had ceased, 2-pyridin-2-yl-ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide (800 mg) was added and the resulting solution was stirred at 90° C. for 40 h. The solution was neutralised with 2 N aq. HCl (7 ml) before it was evaporated. The brown residue was purified by chromatography on prep. tlc-plates with EA:methanol:sat. aq. ammonia 10:2:1. The product was further purified by crystallisation from methanol:diethyl ether:pentane to give 2-pyridin-2-yl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide (280 mg) as beige crystals. 1H-NMR(300 MHz, CDC3): 3.36–3.43(m, 2H), 3.86–3.90(m, 2H), 3.94(s, 3H), 4.23–4.30(m, 2H), 4.564.62(m, 2H), 6.91(dt, Jd=1.5, Jt=7.7, 1H, 7.00(dd, J=1.7, 8.2, 1H, 7.08–7.20(m, 4H), 7.57(dt, Jd=1.8, Jt=7.9, 1H), 8.15(dd, J=1.7, 4.6, 2H), 8.43(d, J=4.4, 1H), 8.72(dd, J=1.7, 4.6, 2H); LC-MS: tR=3.23 min, [M+1]+=524.48, [M−1]−=522.25.

reactant | NaH | 701 mg | [H-].[Na+]
reactant | ethylene glycol | 15 ml | C(CO)O | C2H6O2
reactant | 2-pyridin-2-yl-ethanesulfonic acid [6-chloro-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide | 800 mg | ClC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=NC=CC=C1)OC1=C(C=CC=C1)OC | C23H20ClN5O4S
reactant | HCl | 2 N, 7 ml | Cl | ClH
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-pyridin-2-yl-ethanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-2-pyridin-4-yl-pyrimidin-4-yl]-amide | 280 mg | OCCOC1=C(C(=NC(=N1)C1=CC=NC=C1)NS(=O)(=O)CCC1=NC=CC=C1)OC1=C(C=CC=C1)OC | C25H25N5O6S
